US04956379
A mixture of 3-[2-(1,5-diphenyl-1H-pyrazol-3-yl)ethyl]phenol (4.50 g, 13 mmol), methyl bromoacetate (2.23 g, 1.375 mL, 14.5 mmol), potassium carbonate (2.19 g, 16 mmol), potassium iodide (catalytic amount) and acetonitrile (80 mL) was stirred at reflux for 3 hours. The mixture was filtered, concentrated and the residue chromatographed on a column of silica gel prepared in a mixture of hexanes and diethyl ether (9:1). Subsequent elution with a mixture of hexanes and diethyl ether (1:1) furnished methyl [3-[2-(1,5-diphenyl-1H-pyrazol-3-yl)ethyl]phenoxy]acetate (4.83 g, 85% ) as an oil.

reactant | 3-[2-(1,5-diphenyl-1H-pyrazol-3-yl)ethyl]phenol | 13 mmol, 4.50 g | C1(=CC=CC=C1)N1N=C(C=C1C1=CC=CC=C1)CCC=1C=C(C=CC1)O | C23H20N2O
reactant | methyl bromoacetate | 14.5 mmol, 1.375 mL, 2.23 g | BrCC(=O)OC | C3H5BrO2
reactant | potassium carbonate | 16 mmol, 2.19 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | [I-].[K+]
solvent | acetonitrile | 80 mL | C(C)#N | C2H3N
product | methyl [3-[2-(1,5-diphenyl-1H-pyrazol-3-yl)ethyl]phenoxy]acetate | 4.83 g, 85% | C1(=CC=CC=C1)N1N=C(C=C1C1=CC=CC=C1)CCC=1C=C(OCC(=O)OC)C=CC1 | C26H24N2O3
